US06821967B2
9-{4-[4-(1-methyl-1H-benzimidazol-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid propylamide
Prepared analogously to Example 1 from 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-propylamide and 1-methyl-2-piperazin-1-yl-1H-benzimidazole.

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-propylamide | C(CC)NC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr | C21H24BrNO
reactant | 1-methyl-2-piperazin-1-yl-1H-benzimidazole | CN1C(=NC2=C1C=CC=C2)N2CCNCC2 | C12H16N4
product | 9-{4-[4-(1-methyl-1H-benzimidazol-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid propylamide | C(CC)NC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CC1)C1=NC2=C(N1C)C=CC=C2 | C33H39N5O
